US06784200B2
Preparation of N-(3-phenylallyl)-N-allyltrifluoroacetamide
A solution of trifluoroacetic anhydride (1.33 g, 6.35 mmol) in 10 mL of methylene chloride was added dropwise to a mixture of N-(3-phenylallyl)-allylamine (1.0 g, 5.77 mmol) and triethylamine (8.1 mL, 57.7 mmol) in 20 ml methylene chloride at 0° C. The mixture was allowed to come to room temperature and stirred for 16 hours. The mixture was washed with water followed by brine, then dried over sodium sulfate, and concentrated in-vacuo to an amber oil. The oil was purified by flash chromatography, eluting with 10% ethyl acetate/hexanes. Obtained 1.3 g of a colorless oil as product. Yield=84%. NMR (300 MHz, CDCl3) δ(7.40-7.24 (m, 5H), 6.53 (d, 1H, J=16 Hz), 6.17-6.03 (m, 1H), 5,85-5.72 (m, 1H), 5.34-5.18 (M, 2H), 4.19-4.03 (m, 4H)

reactant | trifluoroacetic anhydride | 6.35 mmol, 1.33 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-(3-phenylallyl)-allylamine | 5.77 mmol, 1.0 g | C1(=CC=CC=C1)C=CCNCC=C | C12H15N
reactant | triethylamine | 57.7 mmol, 8.1 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3-phenylallyl)-N-allyltrifluoroacetamide | 1.3 g, Yield=84% | C1(=CC=CC=C1)C=CCN(C(C(F)(F)F)=O)CC=C | C14H14F3NO
